US04737501
5-(1-Piperazinylcarbonyl)oxindol hydrochloride (1.0 g), 1.2 g of DBU, and 0.73 g of isobutyl bromide were suspended in 15 ml of acetonitrile and the suspension was reflexed for 6 hours. To the mixture were then added 0.6 ml of triethylamine and 0.73 g of isobutyl bromide and the mixture was further reflexed for 8 hours. The reaction mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate and extracted with chloroform. The chloroform layer was washed with a saturated saline solution and dried over sodium sulfate. The residue obtained after the solvent was distilled off was purified by silica-gel column chromatography (eluent: dichloromethane:methanol=20:1). The product was converted into the hydrochloride with acetone and hydrochloricacid, and recrystallized from a mixture of ethanol and methanol to give 0.39 g of 5-(4-isobutyl-1-piperazinylcarbonyl)oxindol hydrochloride.

reactant | 5-(1-Piperazinylcarbonyl)oxindol hydrochloride | 1.0 g | Cl.N1(CCNCC1)C(=O)C=1C=C2CC(NC2=CC1)=O
reactant | DBU | 1.2 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | isobutyl bromide | 0.73 g | C(C(C)C)Br | C4H9Br
reactant | isobutyl bromide | 0.73 g | C(C(C)C)Br | C4H9Br
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.6 ml | C(C)N(CC)CC | C6H15N
product | 5-(4-isobutyl-1-piperazinylcarbonyl)oxindol hydrochloride | 0.39 g | Cl.C(C(C)C)N1CCN(CC1)C(=O)C=1C=C2CC(NC2=CC1)=O | InChI=1S/C17H23N3O2.ClH/c1-12(2)11-19-5-7-20(8-6-19)17(22)13-3-4-15-14(9-13)10-16(21)18-15;/h3-4,9,12H,5-8,10-11H2,1-2H3,(H,18,21);1H
